US07968725B2
a) [2-Chloro-6-(4-trifluoromethyl-phenyl)-pyridin-4-yl]-acetic acid methyl ester
A solution of LDA (1.8 M in THF/heptane/ethyl benzene, 3.0 mL, 5.4 mmol) was added slowly to a stirred solution of 2-Chloro-4-methyl-6-(4-trifluoromethyl-phenyl)-pyridine (545 g, 2.0 mmol) under N2 at −78° C. After 30 minutes dimethyl carbonate (400 μL, 4.0 mmol) was added. After stirring at −78° C. for an additional 30 minutes, the solution was allowed to warm up slowly and stirred at 0° C. for 30 minutes. The reaction was quenched with saturated aqueous NH4Cl (4 mL). The mixture was partitioned between CH2Cl2 and H2O. The aqueous layer was extracted with CH2Cl2 (2×). The combined extracts were washed with brine, then dried (Na2SO4), filtered and evaporated. The residue was purified by column chromatography on silica gel (40-80% CH2Cl2 in heptane) to give the product as an off white solid (520 mg, 79%). 1H NMR (300 MHz, CDCl3) δ 8.11 (d, J=8.29 Hz, 2H), 7.72 (d, J=8.29 Hz, 2H), 7.62 (s, 1H), 7.28 (s, 1H), 3.76 (s, 3H), 3.71 (s, 2H). MS m/e 330.1 (M+H).

reactant | LDA | 5.4 mmol, 1.8 M, 3.0 mL | [Li+].CC(C)[N-]C(C)C
reactant | 2-Chloro-4-methyl-6-(4-trifluoromethyl-phenyl)-pyridine | 2.0 mmol, 545 g | ClC1=NC(=CC(=C1)C)C1=CC=C(C=C1)C(F)(F)F | C13H9ClF3N
reactant | dimethyl carbonate | 4.0 mmol, 400 μL | C(OC)(OC)=O | C3H6O3
product | [2-Chloro-6-(4-trifluoromethyl-phenyl)-pyridin-4-yl]-acetic acid methyl ester | 520 mg, 79% | COC(CC1=CC(=NC(=C1)C1=CC=C(C=C1)C(F)(F)F)Cl)=O | C15H11ClF3NO2
